US06180635B2
e) 1-(2-Methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Sodium ethoxide (0.036 g) was added to a solution of N′-acetyl-N-(2-methylpropyl)-N-[3-ethoxycarbonyl-5-(1-naphthalenylmethyl)-2-thienyl]urea (0.20 g) in ethanol (4 ml). The mixture was stirred for 3 hours then further sodium ethoxide (0.036 g) was added. After a further 3 hours, the mixture was poured into hydrochloric acid (2M, 20 ml) and extracted with ethyl acetate (2×20 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residual solid was recrystallised from ethyl acetate/hexane to give the title compound (0.105 g).

reactant | Sodium ethoxide | 0.036 g | [O-]CC.[Na+]
reactant | N′-acetyl-N-(2-methylpropyl)-N-[3-ethoxycarbonyl-5-(1-naphthalenylmethyl)-2-thienyl]urea | 0.20 g | C(C)(=O)NC(N(C=1SC(=CC1C(=O)OCC)CC1=CC=CC2=CC=CC=C12)CC(C)C)=O | C25H28N2O4S
reactant | sodium ethoxide | 0.036 g | [O-]CC.[Na+]
reactant | hydrochloric acid | 2M, 20 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(2-Methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.105 g | CC(CN1C(NC(C2=C1SC(=C2)CC2=CC=CC1=CC=CC=C21)=O)=O)C | C21H20N2O2S
